US06271261B1
Preparation of N-(2-hydroxy-4-nitrophenyl)-N′-(benzyl)urea
N-(2-Hydroxy-4-nitrophenyl)-N′-(benzyl)urea was prepared from 2-hydroxy 4-nitro aniline (308 mg, 2.0 mmol) and benzyl isocyanate (2 mmol) according to the procedure in General Method A. The product was purified by dilution with methylene chloride and precipitation with hexanes. Filtering afforded the title compound (362 mg, 52%). EI-MS m/z 288 (M+H)+

reactant | 2-hydroxy 4-nitro aniline | 2.0 mmol, 308 mg | OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H6N2O3
reactant | benzyl isocyanate | 2 mmol | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | N-(2-hydroxy-4-nitrophenyl)-N′-(benzyl)urea | 362 mg, 52% | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)NCC1=CC=CC=C1 | C14H13N3O4
